US04173478
Preparation of 2-(benzotriazol-5-yl)azo-4-methoxynaphth-1-ol (Dye 1)
5-Aminobenzotriazole (4.3 g) was dissolved in a mixture of concentrated hydrochloric acid (24 ml) and water (100 ml) and diazotized at 0° C. with a solution of sodium nitrite (2.2 g) in water (15 ml). The resulting diazonium solution was added at 0° C. to 4-methoxynaphth-1-ol (5.3 g) dissolved in 3 N sodium hydroxide (90 ml) containing sodium acetate (20 g). The resulting mixture was stirred for one hour at 0° C. and then acidified with hydrochloric acid. The dye was filtered off and crystallized in a pyridine/water mixture to give pure material (7.4 g), m.p. 254° C., λmax (methanol)=516 nm.

reactant | 5-Aminobenzotriazole | 4.3 g | NC1=CC2=C(NN=N2)C=C1 | C6H6N4
reactant | sodium nitrite | 2.2 g | N(=O)[O-].[Na+]
reactant | 4-methoxynaphth-1-ol | 5.3 g | COC1=CC=C(C2=CC=CC=C12)O | C11H10O2
reactant | sodium acetate | 20 g | C(C)(=O)[O-].[Na+]
solvent | hydrochloric acid | 24 ml | Cl | ClH
solvent | water | 100 ml | O | H2O
solvent | water | 15 ml | O | H2O
solvent | sodium hydroxide | 3 N, 90 ml | [OH-].[Na+]
product | 2-(benzotriazol-5-yl)azo-4-methoxynaphth-1-ol | 7.4 g | N1N=NC2=C1C=CC(=C2)N=NC2=C(C1=CC=CC=C1C(=C2)OC)O | C17H13N5O2
